US06060038
Step C: 3-Iodo-5-nitrobenzyl fluoride
A solution of 3-iodo-5-nitrobenzyl alcohol (7.2 g, 25.8 mmol) described in Step B, in CH2Cl2 (325 mL) was cooled to 0° C. and treated with iPr2NEt (6.57 mL, 37.7 mmol) and methane sulfonyl chloride (2.19 mL, 28.2 mmol). After stirring for 1.5 hours at 0° C, the reaction was poured into a separatory funnel containing aqueous 5% citric acid. The layers were separated and the aqueous layer was extracted with CH2Cl2. The organic layers were combined and dried (MgSO4), filtered and concentrated to give an orange oil. This material was dissolved in acetonitrile (325 mL), cooled to 0° C. and treated with tetrabutylammonium fluoride (47 mL, 1 M in THF, 47 mmol) via an addition funnel over about 10 minutes giving a dark blue-green mixture. This was stirred overnight as the reaction warmed to room temperature. TLC analysis (1:1 hexane:ethyl acetate) showed the desired product (Rf =0.56). The reaction was diluted with H2O, concentrated and then extracted with ethyl acetate. The ethyl acetate was dried (MgSO4), filtered and concentrated to give a dark brown oil. This material was dissolved in methanol, treated with 7 g of silica gel, concentrated to a free flowing powder and purified by flash chromatography (hexane then 10:1 hexane:ethyl acetate) to give 3-iodo-5-nitrobenzyl fluoride as a tan solid: mp 50.5-51.5° C.

reactant | 3-iodo-5-nitrobenzyl alcohol | 25.8 mmol, 7.2 g | IC=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H6INO3
reactant | iPr2NEt | 37.7 mmol, 6.57 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methane sulfonyl chloride | 28.2 mmol, 2.19 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | tetrabutylammonium fluoride | 47 mmol, 1 M, 47 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 325 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 325 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-Iodo-5-nitrobenzyl fluoride | IC=1C=C(CF)C=C(C1)[N+](=O)[O-] | C7H5FINO2
